US07060827B2
In a like manner to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, 2-chloro-5-fluoro-N4-(3-dihydroxyborylphenyl)-4-pyrimidineamine and 3-hydroxyaniline were reacted to produce 5-Fluoro-N4-(3-dihydroxyborylphenyl)-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 9.68 (bs, 1H), 9.35 (bs, 1H), 9.22 (bs, 1H), 8.10 (d, 1H, J=3.9 Hz), 7.88–7.80 (m, 2H), 7.54 (d, 1H, J=7.2 Hz), 7.31 (t, 1H, J=7.2 Hz), 7.08 (d, 1H, J=8.4 Hz), 6.98–6.93 (m, 2H), 6.35 (d, 1H, J=8.4 Hz); LCMS: purity: 96%; MS (m/e): 341(MH+).

reactant | 2-chloro-5-fluoro-N4-(3-dihydroxyborylphenyl)-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC(=CC=C1)B(O)O)F | C10H8BClFN3O2
reactant | 3-hydroxyaniline | OC=1C=C(N)C=CC1 | C6H7NO
product | 5-Fluoro-N4-(3-dihydroxyborylphenyl)-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | FC=1C(=NC(=NC1)NC1=CC(=CC=C1)O)NC1=CC(=CC=C1)B(O)O | C16H14BFN4O3
